US06972295B2
Step B 3-(3-Cyanophenyl)-4-cyclobutyl-butan-2-one
To a solution of 1.45 g (9.07 mmol) of 1-(3-cyanophenyl)acetone in 18 mL acetonitrile, 1.1 mL (9.5 mmol) cyclobutyl bromide and 5.91 g (18.1 mmol) cesium carbonate were added. After heating the solution in a 60° C. bath overnight, it was cooled and filtered. The filtrate was partitioned between water and EtOAc and the aqueous layer was extracted with EtOAc. The combined organic layer was washed with brine, dried and concentrated. The residue was purified on a flash column using a gradient of 5-10% EtOAc/hexane to isolate the title compound. 1H NMR: (500 MHz, CDCl3): δ 1.5-2.2 (m, 9H), 2.13 (s, 3H), 3.64 (m, 1H), 7.4-7.7 (m, 4H)

reactant | 1-(3-cyanophenyl)acetone | 9.07 mmol, 1.45 g | C(#N)C=1C=C(C=CC1)CC(=O)C | C10H9NO
reactant | cyclobutyl bromide | 9.5 mmol, 1.1 mL | C1(CCC1)Br | C4H7Br
reactant | cesium carbonate | 18.1 mmol, 5.91 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 18 mL | C(C)#N | C2H3N
product | 3-(3-Cyanophenyl)-4-cyclobutyl-butan-2-one | C(#N)C=1C=C(C=CC1)C(C(C)=O)CC1CCC1 | C15H17NO
